US09233974B2
A mixture of (2S)-1-(tert-butoxycarbonyl)-4-ethylpyrrolidine-2-carboxylic acid (45.5 g, 187 mmol), TEA (37.8 g, 374 mmol) in THF (1 L) was added dropwise BnBr (38.5 g, 225 mmol) at 0° C. The mixture was stirred at room temperature overnight. TLC showed the reaction was completed. The mixture was concentrated to remove solvent. The residue was partitioned between EtOAc and water. The combined organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude product was purified by column chromatography to give (2S)-2-benzyl 1-tert-butyl 4-ethylpyrrolidine-1,2-dicarboxylate (46 g, 74%) as colorless oil. (2S)-2-benzyl 1-tert-butyl 4-ethylpyrrolidine-1,2-dicarboxylate was separated by preparative SFC via a Chiralcel OD 250*50 mm i.d. 10 μm column (Mobile phase: A for n-hexane and B for ethanol (0.05% IPAm), Gradient: A: B=97:3, Flow rate: 100 ml/min, Wavelength: 210 and 220 nm, Injection amount: 0.4 g per injection) to provide (2S,4S)-2-benzyl 1-tert-butyl 4-ethylpyrrolidine-1,2-dicarboxylate.

reactant | (2S)-1-(tert-butoxycarbonyl)-4-ethylpyrrolidine-2-carboxylic acid | 187 mmol, 45.5 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)CC)C(=O)O | C12H21NO4
reactant | BnBr | 225 mmol, 38.5 g | C1=CC=C(C=C1)CBr | C7H7Br
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | (2S)-2-benzyl 1-tert-butyl 4-ethylpyrrolidine-1,2-dicarboxylate | 46 g, 74% | C(C)C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H27NO4
